US06743794B2
N-{(1S,3S)-3-[2-(Phenylamino)ethyl]cyclohexyl}[3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-yl]carboxamide
A compound from preparation 91 (53 mg; 0.166 mmol) was dissolved in excess, neat acetic acid saturated with HCl(g) (2 mL). After 30 min of stirring at room temperature, in air, the solution was concentrated to dryness by rotary evaporation. Acetic acid was removed from the resultant solid by consecutive dissolution in, and drying from, acetonitrile (thrice) and then diethyl ether (twice). The resulting white powder was dissolved in anhydrous dichloromethane (8 mL) under a nitrogen atmosphere. First was added 3-(2-chloro-6-fluoro-phenyl)-5-methylisoxazole-4-carbonyl chloride (50.2 mg; 0.183 mmol; 1.1 equiv), and then 4-N,N-dimethylaminopyridine (2 mg; 0.017 mmol; 0.1 equiv) and finally triethylamine (94 μL; 0.667 mmol; 4 equiv). The reaction solution was stirred overnight, then quenched with saturated NaHCO3(aq), then extracted with dichloromethane (twice). The organic layer was washed with saturated NaCl(aq) (once), dried with Na2SO4(s), filtered, and concentrated to dryness by rotary evaporation. The resulting product was dissolved in dichloromethane and purified by radial chromatography on a 2 mm thick silica gel rotor. A dichloromethane mobile phase was followed by a 5% tetrahydrofuran/dichloromethane (v/v) mobile phase. An off-white solid (66 mg; 87%) was obtained. TOF-MS(ES) calc'd: [M+H]+=456.1854 m/z.

reactant | HCl | 2 mL | Cl | ClH
reactant | 3-(2-chloro-6-fluoro-phenyl)-5-methylisoxazole-4-carbonyl chloride | 0.183 mmol, 50.2 mg, 1.1 equiv | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
reactant | triethylamine | 0.667 mmol, 94 μL, 4 equiv | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N-{(1S,3S)-3-[2-(Phenylamino)ethyl]cyclohexyl}[3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-yl]carboxamide | C1(=CC=CC=C1)NCC[C@H]1C[C@H](CCC1)NC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl | C25H27ClFN3O2
